US08034814B2
1-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-4-[6-hydroxy-(pyridin-3-yl)-methyl]phthalazine
In analogy to Ex. 3, treatment of a solution of 1-(4-fluoro-2-methyl-1H-indol-5-yloxy)-4-[6-methoxy-(pyridin-3-yl)-methyl]phthalazine in CHCl3 with Me3Sil, followed by hydrolysis gives the title compound.

reactant | 1-(4-fluoro-2-methyl-1H-indol-5-yloxy)-4-[6-methoxy-(pyridin-3-yl)-methyl]phthalazine | FC1=C2C=C(NC2=CC=C1OC1=NN=C(C2=CC=CC=C12)CC=1C=NC(=CC1)OC)C | C24H19FN4O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-4-[6-hydroxy-(pyridin-3-yl)-methyl]phthalazine | FC1=C2C=C(NC2=CC=C1OC1=NN=C(C2=CC=CC=C12)CC=1C=NC(=CC1)O)C | C23H17FN4O2
